US09108938B2
2-(2-(1,1-Difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)ethanamine (34 mg, 0.044 mmol, 40% pure) and 2,3-dichlorobenzoyl chloride (65 mg, 0.31 mmol), was dissolved in anhydrous THF (4400 mg, 5 ml, 61.0 mmol), DIPEA (111 mg, 0.15 ml, 0.859 mmol) was added and stirred over night. The solution was concentrated and purified by column chromatography on silica gel (petroleum ether: EtOAc=1:0 to 0:1) followed by HPLC, to afford 2,3-dichloro-N-(2-(2-(1,1-difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)ethyl)benzamide (10 mg, 47% yield).

reactant | 2-(2-(1,1-Difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)ethanamine | 0.044 mmol, 34 mg | FC(C)(F)C1=NC=C(C=N1)C(CN)N1CCC(CC1)(F)F | C13H18F4N4
reactant | 2,3-dichlorobenzoyl chloride | 0.31 mmol, 65 mg | ClC1=C(C(=O)Cl)C=CC=C1Cl | C7H3Cl3O
reactant | THF | 61.0 mmol, 5 ml, 4400 mg | C1CCOC1 | C4H8O
reactant | DIPEA | 0.859 mmol, 0.15 ml, 111 mg | CCN(C(C)C)C(C)C | C8H19N
product | 2,3-dichloro-N-(2-(2-(1,1-difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)ethyl)benzamide | 10 mg, 47% yield | ClC1=C(C(=O)NCC(N2CCC(CC2)(F)F)C=2C=NC(=NC2)C(C)(F)F)C=CC=C1Cl | C20H20Cl2F4N4O
